US06911468B2
(8) 4-[5-Methyl-1-(4-pentylphenylpropyl)-1H-pyrrol-2-yl]phenol
To a solution of 2-(4-benzyloxyphenyl)-5-methyl-1-(4-pentylphenylpropyl)-1H-pyrrole (2.99 g, 6.6 mmol) in ethanol (60 ml) was added 10% palladium carbon (300 mg) and the mixture was stirred under hydrogen atmosphere. The insoluble matter was filtered out and the filtrate was concentrated to give the object compound as an oily substance. 1.28 g, (yield 54% )

reactant | 2-(4-benzyloxyphenyl)-5-methyl-1-(4-pentylphenylpropyl)-1H-pyrrole | 6.6 mmol, 2.99 g | C(C1=CC=CC=C1)OC1=CC=C(C=C1)C=1N(C(=CC1)C)CCCC1=CC=C(C=C1)CCCCC | C32H37NO
solvent | ethanol | 60 ml | C(C)O | C2H6O
catalyst | palladium carbon | 300 mg | [C].[Pd]
product | 4-[5-Methyl-1-(4-pentylphenylpropyl)-1H-pyrrol-2-yl]phenol | yield 54% | CC1=CC=C(N1CCCC1=CC=C(C=C1)CCCCC)C1=CC=C(C=C1)O | C25H31NO
